* NGSPICE file created from user_analog_project_wrapper_flat.ext - technology: sky130A

.subckt user_analog_project_wrapper vdda1 vdda2 vssa1 vssa2 vccd1 vccd2 vssd1 vssd2 wb_clk_i
+ wb_rst_i wbs_stb_i wbs_cyc_i wbs_we_i wbs_sel_i[3],wbs_sel_i[2],wbs_sel_i[1],wbs_sel_i[0]
+ wbs_dat_i[31],wbs_dat_i[30],wbs_dat_i[29],wbs_dat_i[28],wbs_dat_i[27],wbs_dat_i[26],wbs_dat_i[25],wbs_dat_i[24],wbs_dat_i[23],wbs_dat_i[22],wbs_dat_i[21],wbs_dat_i[20],wbs_dat_i[19],wbs_dat_i[18],wbs_dat_i[17],wbs_dat_i[16],wbs_dat_i[15],wbs_dat_i[14],wbs_dat_i[13],wbs_dat_i[12],wbs_dat_i[11],wbs_dat_i[10],wbs_dat_i[9],wbs_dat_i[8],wbs_dat_i[7],wbs_dat_i[6],wbs_dat_i[5],wbs_dat_i[4],wbs_dat_i[3],wbs_dat_i[2],wbs_dat_i[1],wbs_dat_i[0]
+ wbs_adr_i[31],wbs_adr_i[30],wbs_adr_i[29],wbs_adr_i[28],wbs_adr_i[27],wbs_adr_i[26],wbs_adr_i[25],wbs_adr_i[24],wbs_adr_i[23],wbs_adr_i[22],wbs_adr_i[21],wbs_adr_i[20],wbs_adr_i[19],wbs_adr_i[18],wbs_adr_i[17],wbs_adr_i[16],wbs_adr_i[15],wbs_adr_i[14],wbs_adr_i[13],wbs_adr_i[12],wbs_adr_i[11],wbs_adr_i[10],wbs_adr_i[9],wbs_adr_i[8],wbs_adr_i[7],wbs_adr_i[6],wbs_adr_i[5],wbs_adr_i[4],wbs_adr_i[3],wbs_adr_i[2],wbs_adr_i[1],wbs_adr_i[0] wbs_ack_o
+ wbs_dat_o[31],wbs_dat_o[30],wbs_dat_o[29],wbs_dat_o[28],wbs_dat_o[27],wbs_dat_o[26],wbs_dat_o[25],wbs_dat_o[24],wbs_dat_o[23],wbs_dat_o[22],wbs_dat_o[21],wbs_dat_o[20],wbs_dat_o[19],wbs_dat_o[18],wbs_dat_o[17],wbs_dat_o[16],wbs_dat_o[15],wbs_dat_o[14],wbs_dat_o[13],wbs_dat_o[12],wbs_dat_o[11],wbs_dat_o[10],wbs_dat_o[9],wbs_dat_o[8],wbs_dat_o[7],wbs_dat_o[6],wbs_dat_o[5],wbs_dat_o[4],wbs_dat_o[3],wbs_dat_o[2],wbs_dat_o[1],wbs_dat_o[0]
+ la_data_out[127],la_data_out[126],la_data_out[125],la_data_out[124],la_data_out[123],la_data_out[122],la_data_out[121],la_data_out[120],la_data_out[119],la_data_out[118],la_data_out[117],la_data_out[116],la_data_out[115],la_data_out[114],la_data_out[113],la_data_out[112],la_data_out[111],la_data_out[110],la_data_out[109],la_data_out[108],la_data_out[107],la_data_out[106],la_data_out[105],la_data_out[104],la_data_out[103],la_data_out[102],la_data_out[101],la_data_out[100],la_data_out[99],la_data_out[98],la_data_out[97],la_data_out[96],la_data_out[95],la_data_out[94],la_data_out[93],la_data_out[92],la_data_out[91],la_data_out[90],la_data_out[89],la_data_out[88],la_data_out[87],la_data_out[86],la_data_out[85],la_data_out[84],la_data_out[83],la_data_out[82],la_data_out[81],la_data_out[80],la_data_out[79],la_data_out[78],la_data_out[77],la_data_out[76],la_data_out[75],la_data_out[74],la_data_out[73],la_data_out[72],la_data_out[71],la_data_out[70],la_data_out[69],la_data_out[68],la_data_out[67],la_data_out[66],la_data_out[65],la_data_out[64],la_data_out[63],la_data_out[62],la_data_out[61],la_data_out[60],la_data_out[59],la_data_out[58],la_data_out[57],la_data_out[56],la_data_out[55],la_data_out[54],la_data_out[53],la_data_out[52],la_data_out[51],la_data_out[50],la_data_out[49],la_data_out[48],la_data_out[47],la_data_out[46],la_data_out[45],la_data_out[44],la_data_out[43],la_data_out[42],la_data_out[41],la_data_out[40],la_data_out[39],la_data_out[38],la_data_out[37],la_data_out[36],la_data_out[35],la_data_out[34],la_data_out[33],la_data_out[32],la_data_out[31],la_data_out[30],la_data_out[29],la_data_out[28],la_data_out[27],la_data_out[26],la_data_out[25],la_data_out[24],la_data_out[23],la_data_out[22],la_data_out[21],la_data_out[20],la_data_out[19],la_data_out[18],la_data_out[17],la_data_out[16],la_data_out[15],la_data_out[14],la_data_out[13],la_data_out[12],la_data_out[11],la_data_out[10],la_data_out[9],la_data_out[8],la_data_out[7],la_data_out[6],la_data_out[5],la_data_out[4],la_data_out[3],la_data_out[2],la_data_out[1],la_data_out[0]
+ la_data_in[127],la_data_in[126],la_data_in[125],la_data_in[124],la_data_in[123],la_data_in[122],la_data_in[121],la_data_in[120],la_data_in[119],la_data_in[118],la_data_in[117],la_data_in[116],la_data_in[115],la_data_in[114],la_data_in[113],la_data_in[112],la_data_in[111],la_data_in[110],la_data_in[109],la_data_in[108],la_data_in[107],la_data_in[106],la_data_in[105],la_data_in[104],la_data_in[103],la_data_in[102],la_data_in[101],la_data_in[100],la_data_in[99],la_data_in[98],la_data_in[97],la_data_in[96],la_data_in[95],la_data_in[94],la_data_in[93],la_data_in[92],la_data_in[91],la_data_in[90],la_data_in[89],la_data_in[88],la_data_in[87],la_data_in[86],la_data_in[85],la_data_in[84],la_data_in[83],la_data_in[82],la_data_in[81],la_data_in[80],la_data_in[79],la_data_in[78],la_data_in[77],la_data_in[76],la_data_in[75],la_data_in[74],la_data_in[73],la_data_in[72],la_data_in[71],la_data_in[70],la_data_in[69],la_data_in[68],la_data_in[67],la_data_in[66],la_data_in[65],la_data_in[64],la_data_in[63],la_data_in[62],la_data_in[61],la_data_in[60],la_data_in[59],la_data_in[58],la_data_in[57],la_data_in[56],la_data_in[55],la_data_in[54],la_data_in[53],la_data_in[52],la_data_in[51],la_data_in[50],la_data_in[49],la_data_in[48],la_data_in[47],la_data_in[46],la_data_in[45],la_data_in[44],la_data_in[43],la_data_in[42],la_data_in[41],la_data_in[40],la_data_in[39],la_data_in[38],la_data_in[37],la_data_in[36],la_data_in[35],la_data_in[34],la_data_in[33],la_data_in[32],la_data_in[31],la_data_in[30],la_data_in[29],la_data_in[28],la_data_in[27],la_data_in[26],la_data_in[25],la_data_in[24],la_data_in[23],la_data_in[22],la_data_in[21],la_data_in[20],la_data_in[19],la_data_in[18],la_data_in[17],la_data_in[16],la_data_in[15],la_data_in[14],la_data_in[13],la_data_in[12],la_data_in[11],la_data_in[10],la_data_in[9],la_data_in[8],la_data_in[7],la_data_in[6],la_data_in[5],la_data_in[4],la_data_in[3],la_data_in[2],la_data_in[1],la_data_in[0]
+ la_oenb[127],la_oenb[126],la_oenb[125],la_oenb[124],la_oenb[123],la_oenb[122],la_oenb[121],la_oenb[120],la_oenb[119],la_oenb[118],la_oenb[117],la_oenb[116],la_oenb[115],la_oenb[114],la_oenb[113],la_oenb[112],la_oenb[111],la_oenb[110],la_oenb[109],la_oenb[108],la_oenb[107],la_oenb[106],la_oenb[105],la_oenb[104],la_oenb[103],la_oenb[102],la_oenb[101],la_oenb[100],la_oenb[99],la_oenb[98],la_oenb[97],la_oenb[96],la_oenb[95],la_oenb[94],la_oenb[93],la_oenb[92],la_oenb[91],la_oenb[90],la_oenb[89],la_oenb[88],la_oenb[87],la_oenb[86],la_oenb[85],la_oenb[84],la_oenb[83],la_oenb[82],la_oenb[81],la_oenb[80],la_oenb[79],la_oenb[78],la_oenb[77],la_oenb[76],la_oenb[75],la_oenb[74],la_oenb[73],la_oenb[72],la_oenb[71],la_oenb[70],la_oenb[69],la_oenb[68],la_oenb[67],la_oenb[66],la_oenb[65],la_oenb[64],la_oenb[63],la_oenb[62],la_oenb[61],la_oenb[60],la_oenb[59],la_oenb[58],la_oenb[57],la_oenb[56],la_oenb[55],la_oenb[54],la_oenb[53],la_oenb[52],la_oenb[51],la_oenb[50],la_oenb[49],la_oenb[48],la_oenb[47],la_oenb[46],la_oenb[45],la_oenb[44],la_oenb[43],la_oenb[42],la_oenb[41],la_oenb[40],la_oenb[39],la_oenb[38],la_oenb[37],la_oenb[36],la_oenb[35],la_oenb[34],la_oenb[33],la_oenb[32],la_oenb[31],la_oenb[30],la_oenb[29],la_oenb[28],la_oenb[27],la_oenb[26],la_oenb[25],la_oenb[24],la_oenb[23],la_oenb[22],la_oenb[21],la_oenb[20],la_oenb[19],la_oenb[18],la_oenb[17],la_oenb[16],la_oenb[15],la_oenb[14],la_oenb[13],la_oenb[12],la_oenb[11],la_oenb[10],la_oenb[9],la_oenb[8],la_oenb[7],la_oenb[6],la_oenb[5],la_oenb[4],la_oenb[3],la_oenb[2],la_oenb[1],la_oenb[0]
+ io_in[26],io_in[25],io_in[24],io_in[23],io_in[22],io_in[21],io_in[20],io_in[19],io_in[18],io_in[17],io_in[16],io_in[15],io_in[14],io_in[13],io_in[12],io_in[11],io_in[10],io_in[9],io_in[8],io_in[7],io_in[6],io_in[5],io_in[4],io_in[3],io_in[2],io_in[1],io_in[0]
+ io_in_3v3[26],io_in_3v3[25],io_in_3v3[24],io_in_3v3[23],io_in_3v3[22],io_in_3v3[21],io_in_3v3[20],io_in_3v3[19],io_in_3v3[18],io_in_3v3[17],io_in_3v3[16],io_in_3v3[15],io_in_3v3[14],io_in_3v3[13],io_in_3v3[12],io_in_3v3[11],io_in_3v3[10],io_in_3v3[9],io_in_3v3[8],io_in_3v3[7],io_in_3v3[6],io_in_3v3[5],io_in_3v3[4],io_in_3v3[3],io_in_3v3[2],io_in_3v3[1],io_in_3v3[0]
+ io_out[26],io_out[25],io_out[24],io_out[23],io_out[22],io_out[21],io_out[20],io_out[19],io_out[18],io_out[17],io_out[16],io_out[15],io_out[14],io_out[13],io_out[12],io_out[11],io_out[10],io_out[9],io_out[8],io_out[7],io_out[6],io_out[5],io_out[4],io_out[3],io_out[2],io_out[1],io_out[0]
+ io_oeb[26],io_oeb[25],io_oeb[24],io_oeb[23],io_oeb[22],io_oeb[21],io_oeb[20],io_oeb[19],io_oeb[18],io_oeb[17],io_oeb[16],io_oeb[15],io_oeb[14],io_oeb[13],io_oeb[12],io_oeb[11],io_oeb[10],io_oeb[9],io_oeb[8],io_oeb[7],io_oeb[6],io_oeb[5],io_oeb[4],io_oeb[3],io_oeb[2],io_oeb[1],io_oeb[0]
+ gpio_analog[17],gpio_analog[16],gpio_analog[15],gpio_analog[14],gpio_analog[13],gpio_analog[12],gpio_analog[11],gpio_analog[10],gpio_analog[9],gpio_analog[8],gpio_analog[7],gpio_analog[6],gpio_analog[5],gpio_analog[4],gpio_analog[3],gpio_analog[2],gpio_analog[1],gpio_analog[0]
+ gpio_noesd[17],gpio_noesd[16],gpio_noesd[15],gpio_noesd[14],gpio_noesd[13],gpio_noesd[12],gpio_noesd[11],gpio_noesd[10],gpio_noesd[9],gpio_noesd[8],gpio_noesd[7],gpio_noesd[6],gpio_noesd[5],gpio_noesd[4],gpio_noesd[3],gpio_noesd[2],gpio_noesd[1],gpio_noesd[0]
+ io_analog[10],io_analog[9],io_analog[8],io_analog[7],io_analog[6],io_analog[5],io_analog[4],io_analog[3],io_analog[2],io_analog[1],io_analog[0] io_clamp_high[2],io_clamp_high[1],io_clamp_high[0] io_clamp_low[2],io_clamp_low[1],io_clamp_low[0]
+ user_clock2 user_irq[2],user_irq[1],user_irq[0]
X0 esd_3/in vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X1 vssa1 vssa1 esd_4/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X2 a_481708_644918# a_483446_644892# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X3 vssa1 VCO_Flat_0/Buff_VCO_1/IN a_504724_647182# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X4 vssa1 vssa1 io_analog[5] vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X5 vccd1 a_471230_648050# esd_5/in vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X6 esd_0/in a_500126_647170# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X7 vssa1 vssa1 esd_1/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X8 vccd1 a_475058_648060# a_473374_648060# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X9 a_487694_644902# VCO_Flat_0/Buff_VCO_3/IN VCO_Flat_0/Buff_VCO_2/IN vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X10 vssa1 a_479772_646886# a_493938_644874# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X11 io_analog[4] vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X12 vccd1 a_498236_647184# a_498928_647174# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X13 esd_5/in a_471230_648050# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X14 vssa1 a_468592_648062# a_466908_648062# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X15 vssa1 vssa1 io_analog[7] vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X16 vccd1 esd_1/in a_493974_650212# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X17 esd_6/in a_506614_647168# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X18 vssa1 a_479772_646886# a_479772_646886# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=200000u M=8
X19 io_analog[4] vssa1 vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X20 a_464764_648054# a_466908_648062# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X21 a_500126_647170# a_498928_647174# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X22 a_479772_646886# esd_2/in a_479864_646886# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X23 esd_6/in vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X24 vccd1 vccd1 io_analog[6] vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X25 a_498236_647184# VCO_Flat_0/Buff_VCO_0/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X26 esd_5/in vssa1 vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X27 a_506614_647168# a_505416_647172# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X28 esd_0/in a_500126_647170# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X29 vssa1 a_498928_647174# a_500126_647170# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X30 io_analog[7] vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X31 vssa1 vssa1 esd_6/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X32 a_487730_650240# esd_1/in vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X33 vssa1 vssa1 esd_3/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X34 esd_6/in a_506614_647168# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X35 vssa1 VCO_Flat_0/Buff_VCO_3/IN a_468592_648062# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X36 io_analog[5] vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X37 vccd1 a_479864_646886# a_481744_650256# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X38 esd_3/in a_457934_648038# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X39 vssa1 a_479772_646886# a_490782_644900# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X40 esd_4/in vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X41 vssa1 vssa1 io_analog[6] vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X42 vccd1 a_479864_646886# a_484700_650240# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X43 vccd1 a_473374_648060# a_471230_648050# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X44 vccd1 a_504724_647182# a_505416_647172# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X45 vssa1 a_466908_648062# a_464764_648054# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X46 a_475058_648060# VCO_Flat_0/Buff_VCO_2/IN vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X47 vccd1 esd_1/in a_490818_650238# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X48 VCO_Flat_0/Buff_VCO_0/IN VCO_Flat_0/Buff_VCO_3/IN a_493974_650212# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X49 vccd1 vccd1 esd_0/in vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X50 VCO_Flat_0/Buff_VCO_3/IN VCO_Flat_0/Buff_VCO_1/IN a_484700_650240# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X51 vssa1 a_483446_644892# a_487694_644902# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X52 VCO_Flat_0/Buff_VCO_3/IN VCO_Flat_0/Buff_VCO_4/IN a_484664_644902# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X53 esd_5/in vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X54 vssa1 vssa1 esd_0/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X55 io_analog[2] vssa1 vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X56 vccd1 a_479864_646886# a_493974_650212# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X57 io_analog[2] vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X58 vccd1 a_457934_648038# esd_3/in vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X59 vccd1 a_461762_648050# a_460078_648050# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X60 vssa1 a_479772_646886# a_484664_644902# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X61 a_490782_644900# a_483446_644892# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X62 vccd1 vccd1 io_analog[1] vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X63 vccd1 esd_1/in a_484700_650240# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X64 a_490818_650238# VCO_Flat_0/Buff_VCO_4/IN VCO_Flat_0/Buff_VCO_1/IN vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X65 esd_4/in io_analog[4] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X66 a_481744_650256# VCO_Flat_0/Buff_VCO_2/IN VCO_Flat_0/Buff_VCO_4/IN vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X67 esd_4/in a_464764_648054# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X68 vccd1 vccd1 io_analog[3] vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X69 a_490782_644900# VCO_Flat_0/Buff_VCO_2/IN VCO_Flat_0/Buff_VCO_1/IN vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X70 io_analog[1] vssa1 vssa1 vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X71 a_498236_647184# VCO_Flat_0/Buff_VCO_0/IN vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X72 a_481708_644918# VCO_Flat_0/Buff_VCO_0/IN VCO_Flat_0/Buff_VCO_4/IN vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X73 a_473374_648060# a_475058_648060# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X74 vssa1 vssa1 io_analog[3] vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X75 a_490818_650238# a_479864_646886# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X76 esd_1/in vccd1 vccd1 vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X77 a_498928_647174# a_498236_647184# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X78 a_506614_647168# a_505416_647172# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X79 a_481744_650256# esd_1/in vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=8
X80 a_481708_644918# a_479772_646886# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X81 a_505416_647172# a_504724_647182# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X82 a_466908_648062# a_468592_648062# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X83 esd_2/in io_analog[2] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X84 esd_4/in a_464764_648054# vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=20
X85 a_493938_644874# a_483446_644892# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X86 vccd1 VCO_Flat_0/Buff_VCO_4/IN a_461762_648050# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X87 vssa1 a_460078_648050# a_457934_648038# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X88 esd_3/in io_analog[3] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X89 vssa1 vssa1 esd_2/in vssa1 sky130_fd_pr__nfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X90 vccd1 vccd1 esd_2/in vccd1 sky130_fd_pr__pfet_01v8_lvt ad=0p pd=0u as=0p ps=0u w=5e+06u l=1e+06u M=20
X91 VCO_Flat_0/Buff_VCO_3/IN VCO_Flat_0/Buff_VCO_1/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X92 esd_0/in io_analog[6] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X93 vccd1 a_479864_646886# a_479864_646886# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=200000u M=8
X94 a_487694_644902# a_479772_646886# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X95 a_475058_648060# VCO_Flat_0/Buff_VCO_2/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X96 esd_1/in io_analog[1] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X97 a_504724_647182# VCO_Flat_0/Buff_VCO_1/IN vccd1 vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X98 vccd1 a_479864_646886# a_487730_650240# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=12
X99 a_493938_644874# VCO_Flat_0/Buff_VCO_1/IN VCO_Flat_0/Buff_VCO_0/IN vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X100 vssa1 a_483446_644892# a_484664_644902# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=11
X101 a_460078_648050# a_461762_648050# vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=10
X102 vccd1 VCO_Flat_0/Buff_VCO_3/IN a_468592_648062# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X103 vssa1 a_473374_648060# a_471230_648050# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X104 esd_6/in io_analog[7] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X105 vccd1 a_460078_648050# a_457934_648038# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=15
X106 vssa1 VCO_Flat_0/Buff_VCO_4/IN a_461762_648050# vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=5
X107 VCO_Flat_0/Buff_VCO_2/IN VCO_Flat_0/Buff_VCO_0/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X108 VCO_Flat_0/Buff_VCO_2/IN VCO_Flat_0/Buff_VCO_0/IN a_487730_650240# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=5e+06u l=150000u M=4
X109 VCO_Flat_0/Buff_VCO_4/IN VCO_Flat_0/Buff_VCO_2/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X110 VCO_Flat_0/Buff_VCO_0/IN VCO_Flat_0/Buff_VCO_3/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
X111 esd_5/in io_analog[5] vssa1 sky130_fd_pr__res_high_po w=2.85e+06u l=1.3e+06u
X112 a_483446_644892# esd_1/in vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=6e+06u l=150000u
X113 vccd1 vssa1 a_483446_644892# vccd1 sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+07u l=150000u M=2
X114 VCO_Flat_0/Buff_VCO_1/IN VCO_Flat_0/Buff_VCO_4/IN vssa1 vssa1 sky130_fd_pr__nfet_01v8 ad=0p pd=0u as=0p ps=0u w=1e+06u l=500000u
.ends

